US06420362B1
1 g (0.0052 mol) of 2-hydrazono-1-phenylpropan-1-one O-methyl oxime is heated under reflux at the boiling point in 5 ml of ethanol with 1.3 g (0.0052 mol) of 2-[(5,6-dihydro-[1,4,2]dioxazin-3-yl)-methoxyimino-methyl]-benzaldehyde and 5 g of anhydrous magnesium sulphate for 1 hour. The reaction mixture is poured onto water and extracted with diethyl ether, the organic phase is dried over sodium sulphate and the solvent is distilled off in vacuo. The residue is stirred with diethyl ether and the crystals formed are filtered off. The solid is chromatographed over silica gel with diethylether/petroleum ether/methylene chloride (2:1:1). 0.9 g (40.8% of theory) of crystalline 2-({2-[(5,6-dihydro-[1,4,2]dioxazin-3-yl)-methoxyimino-methyl]-benzylidene}-hydrazono)-1-phenylpropan-1-one O-methyl oxime of melting point 136° C. is obtained.

reactant | 2-hydrazono-1-phenylpropan-1-one O-methyl oxime | 0.0052 mol, 1 g | CON=C(C(C)=NN)C1=CC=CC=C1 | C10H13N3O
reactant | 2-[(5,6-dihydro-[1,4,2]dioxazin-3-yl)-methoxyimino-methyl]-benzaldehyde | 0.0052 mol, 1.3 g | O1N=C(OCC1)C(C1=C(C=O)C=CC=C1)=NOC | C12H12N2O4
reactant | magnesium sulphate | 5 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-({2-[(5,6-dihydro-[1,4,2]dioxazin-3-yl)-methoxyimino-methyl]-benzylidene}-hydrazono)-1-phenylpropan-1-one O-methyl oxime | 0.9 g, 40.8% | CON=C(C(C)=NN=CC1=C(C=CC=C1)C(=NOC)C1=NOCCO1)C1=CC=CC=C1 | C22H23N5O4
